US07842688B2
d) Benzyl 4-(4-hydroxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
The solution of 10.0 g of benzyl 4-(4-allyloxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate in 160 ml of methanol is admixed successively with 0.57 g of tetrakis(triphenylphosphine)palladium(0) and potassium carbonate. The reaction mixture is stirred at room temperature over 2 hours and subsequently concentrated by evaporation. The residue is admixed slowly with 2M HCl (70 ml) and extracted with dichloromethane (2×250 ml). The organic phases are washed with water (150 ml) and brine (150 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.20 (3:2 EtOAc-heptane); Rt=4.54.

reactant | benzyl 4-(4-allyloxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 10.0 g | C(C=C)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C35H40N2O7
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 160 ml | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.57 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Benzyl 4-(4-hydroxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C32H36N2O7
